US09315521B2
6-methyl-2-({[1-(2-methylpropyl)-1H-imidazol-5-yl]methyl}sulfanyl)pyrimidin-4-ol
To a solution of 5-(chloromethyl)-1-(2-methylpropyl)-1H-imidazole hydrochloride (1.0 g, 4.89 mmol), 6-methyl-2-sulfanylpyrimidin-4-ol (0.546 g, 3.84 mmol), and potassium carbonate (0.677 g, 4.90 mmol) was added. The reaction mixture was stirred at room temperature overnight. Potassium carbonate was filtered, and the solvent was evaporated, affording the title compound as a white solid (1.09 g, 82% yield); 1H NMR (400 MHz, DMSO-d6): δ 0.82 (d, J=6.6 Hz, 6H), 2.01 (m, 1H), 2.21 (s, 3H), 3.75 (d, J=7.6 Hz, 2H), 4.47 (s, 2H), 6.03 (bs, 1H), 6.88 (s, 1H), 7.58 (s, 1H); M+1 279.3.

reactant | 5-(chloromethyl)-1-(2-methylpropyl)-1H-imidazole hydrochloride | 4.89 mmol, 1.0 g | Cl.ClCC1=CN=CN1CC(C)C
reactant | 6-methyl-2-sulfanylpyrimidin-4-ol | 3.84 mmol, 0.546 g | CC1=CC(=NC(=N1)S)O | C5H6N2OS
reactant | potassium carbonate | 4.90 mmol, 0.677 g | C([O-])([O-])=O.[K+].[K+]
product | 6-methyl-2-({[1-(2-methylpropyl)-1H-imidazol-5-yl]methyl}sulfanyl)pyrimidin-4-ol | 1.09 g, 82% yield | CC1=CC(=NC(=N1)SCC1=CN=CN1CC(C)C)O | C13H18N4OS
